US05696263
(R)-3-Azido-2-O-(diisopropyl phosphonomethoxyl)-1-O-methanesulfonyl-1,2-propanediol
To a solution of (R)-3-azido-2-O-(diisopropyl phosphonomethoxyl)-1,2-propanediol (6.4 g, 21.67 mmol) and triethylamine (4.39 g, 43.4 mmol) in methylene chloride (100 mL), methanesulfonylchloride (2.98 g, 26 mmol) was slowly added at 0° C. under nitrogen atmosphere. The resulting solution was stirred at 0° C. for 1 hour and then slowly warmed to room temperature during an hour. Water (100 mL) was added to the solution. The aqueous was separated and extrated with methylene chloride (150 mL×2). The combined methylene chloride extracts were dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by flash chromatography on silica gel (methylene chloride:acetone=10:1 to 3:1) to provide 7.21 g (87% yield) of the title compound as an oil.

reactant | (R)-3-azido-2-O-(diisopropyl phosphonomethoxyl)-1,2-propanediol | 21.67 mmol, 6.4 g | N(=[N+]=[N-])C[C@H](CO)OOC(P(=O)(O)O)(C(C)C)C(C)C | C10H22N3O6P
reactant | triethylamine | 43.4 mmol, 4.39 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 26 mmol, 2.98 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 100 mL | O | H2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-3-Azido-2-O-(diisopropyl phosphonomethoxyl)-1-O-methanesulfonyl-1,2-propanediol | 7.21 g, 87% yield | N(=[N+]=[N-])C[C@H](COS(=O)(=O)C)OOC(P(=O)(O)O)(C(C)C)C(C)C | C11H24N3O8PS
